US04288437
(E)-2-{[(Cyclohexyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one
Prepared as in Example 31 with a yield of 56% of theory from 2-benzoyl-benzo[b]thiophen-3-ol and cyclohexylamine. Lemon-yellow crystals were obtained, m.p. 122°-123° C. (petroleum ether/ethyl acetate 85:15).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | (E)-2-{[(Cyclohexyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one | yield of 56% | C1(CCCCC1)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C21H21NOS
